* /home/yogapriyab2001/esim-workspace/mixed/mixed.cir

.include Clock_pulse_generator.sub
.include 10bitDAC.sub
v1 net-_r1-pad1_ gnd  dc 10
r1  net-_r1-pad1_ net-_r1-pad2_ 1k
c1  c_out gnd 0.1u
* u3  clk rst net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
r2  net-_r1-pad2_ c_out 10k
* u4  ? ? net-_u4-pad3_ net-_u4-pad4_ dac_bridge_2
* u1  c_out plot_v1
* u7  clk plot_v1
v2 rst gnd  dc 0
x2 net-_u4-pad4_ net-_u4-pad3_ net-_u5-pad16_ net-_u5-pad15_ net-_u5-pad14_ net-_u5-pad13_ net-_u5-pad12_ net-_u5-pad11_ net-_u5-pad10_ net-_u5-pad9_ out 10bitDAC
* u6  out plot_v1
* u5  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ dac_bridge_8
x1 net-_r1-pad1_ net-_r1-pad2_ c_out clk Clock_pulse_generator
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ yogapriya_rvmyth
a1 [clk rst ] [net-_u2-pad1_ net-_u2-pad2_ ] u3
a2 [? ? ] [net-_u4-pad3_ net-_u4-pad4_ ] u4
a3 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] [net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ ] u5
a4 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] u2
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             yogapriya_rvmyth, NgSpice Name: yogapriya_rvmyth
.model u2 yogapriya_rvmyth(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-03 1000e-03 0e-00

* Control Statements 
.control
option noopalter
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(c_out)
plot v(clk)
plot v(out)
.endc
.end
